US06897231B2
D. 2-{3-Bromo-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazoyl}perhydro-2H-pyran
To a solution of 2-(5-(1H-1,2,4-triazol-3-yl)-3-bromo-1H-indazoyl)perhydro-2H-pyran in 60 mL in dimethyl formamide, was added triphenylmethyl chloride (3.48 g, 12.5 mmol), and triethyl amine (4.64 mL, 33.32 mmol). The reaction mixture was heated to 80° C. for 12 hours. The solvent was removed under reduced pressure and the crude reaction mixture was partitioned between water and ethyl acetate. The oil resulting from evaporation of the extracts was purified by column chromatography (SiO2, 25% ethyl acetate in hexanes (2.90 g, 61% over 4 steps): 1H NMR (CDCl3) δ 8.3 (s, 1H), 8.2 (d, 1H), 7.9 (s, 1H), 7.5 (d, 1H), 7.4-8.1 (m, 15H), 5.68 (dd, 1H), 4.0 (m, 1H), 3.75 (m, 1H), 2.5 (m, 1H), 2.1 (m, 2H), 1.7 (m, 3H); ES-MS (m/z) 592 [M+2]+.

reactant | 2-(5-(1H-1,2,4-triazol-3-yl)-3-bromo-1H-indazoyl)perhydro-2H-pyran | N1N=C(N=C1)C=1C=C2C(NNC2=CC1)(C(=O)C1OCCCC1)Br | C15H16BrN5O2
reactant | triphenylmethyl chloride | 12.5 mmol, 3.48 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethyl amine | 33.32 mmol, 4.64 mL | C(C)N(CC)CC | C6H15N
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 2-{3-Bromo-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazoyl}perhydro-2H-pyran | BrC1(NNC2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)C1OCCCC1 | C34H30BrN5O2
